US04053455
2,2,4-Trimethyl decahydroquinoline molybdate having a 2/1 molybdenum/2,2,4-trimethyl decahydroquinoline molar ratio was prepared as follows. 10 grams 2,2,4-trimethyl decahydroquinoline, 16.30 grams of a 37 wt.% aqueous HCl solution and 250 ml water were dissolved together and heated to reflux in a 500 ml round-bottomed flask equipped with a stirrer and water-cooled condenser. 28.12 grams ammonium dimolybdate was dissolved in 50 ml hot water. The second solution was added to the first solution. A yellow precipitate formed immediately.

reactant | 2,2,4-trimethyl decahydroquinoline | 10 grams | CC1(NC2CCCCC2C(C1)C)C | C12H23N
reactant | HCl | Cl | ClH
reactant | ammonium dimolybdate | 28.12 grams | [NH4+].[O-][Mo](=O)(=O)[O-].[O-][Mo](=O)(=O)[O-]
solvent | water | 50 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | molybdenum 2,2,4-trimethyl decahydroquinoline | [Mo].CC1(NC2CCCCC2C(C1)C)C | InChI=1S/C12H23N.Mo/c1-9-8-12(2,3)13-11-7-5-4-6-10(9)11;/h9-11,13H,4-8H2,1-3H3;
